US04399282
(Preparation of 7-ethylcamptothecin)
Ferrous sulfate heptahydrate (1.20 g, 4.31 m-mol) and propionic acid was dissolved in water (15 ml). Camptothecin (300 mg, 0.862 m-mol) was suspended in the solution and dissolved therein by addition of concentrated sulfuric acid (6 ml) in small portions. To this solution was added dropwise under ice-cooling and agitation a 30% aqueous solution of hydrogen peroxide (1 ml, 9.81 m-mol) in small portions over the period of about 10 minutes. After addition of the hydrogen peroxide, the agitation was continued for 16 hours at room temperature. The reaction mixture was diluted with ice water (300 ml) and extracted with chloroform (400 ml). The chloroform layer was dried with magnesium sulfate, filtered and evaporated until dryness under reduced pressure. The residue was subjected to column chromatography (chloroform) through silica gel (10 g) to effect separation and purification of the product whereby 73 mg (22.5 g) of the objective compound were obtained as a yellow white solid.

reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | Camptothecin | 300 mg | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=CC=CC5=NC4C3=C2)O | C20H16N2O4
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | 1 ml | OO | H2O2
solvent | water | 15 ml | O | H2O
product | 7-ethylcamptothecin | CCC1=C2CN3C(=CC4=C(C3=O)COC(=O)[C@@]4(CC)O)C2=NC5=CC=CC=C51 | C22H20N2O4
